US07820356B2
Synthesis of Decyl Norbornene/Phenylethyl Norbornene Copolymer (P18)
Decyl Norbornene (DeNB, CAS 22094-85-5) (6.84 g, 0.029 mol), PENB (23.16 g, 0.117 mol), 1-hexene (12.26 g, 0.146 mol) and toluene (170.0 g) were combined in a 500 mL serum bottle and heated to 80° C. in an oil bath to form a solution. To this solution were injected Pd1446 (0.0084 g, 5.84E-06 mol) and DANFABA (0.019 g, 2.33E-5 mol), each in the form of a concentrated solution in dichloromethane. After addition, the resulting mixture was maintained at 80° C. for 50 minutes. The copolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 60° C. under vacuum. After drying, 19.74 g was obtained (66%). The molecular weight of the copolymer was determined by GPC in THF solvent (polystyrene standard) to be Mw=78,000 and Mn=36,000. The composition of the copolymer was determined by 1H-NMR to be (19/81) DeNB/PENB copolymer. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5640 in TE mode and 1.5622 in TM mode at a wavelength of 633 nm The dried copolymer was dissolved in sufficient toluene to result in a 30 wt % copolymer solution.

reactant | Decyl Norbornene | 0.029 mol, 6.84 g | C(CCCCCCCCC)C12C=CC(CC1)C2 | C17H30
reactant | 1-hexene | 0.146 mol, 12.26 g | C=CCCCC | C6H12
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 170.0 g | C1(=CC=CC=C1)C | C7H8
product | Decyl Norbornene Phenylethyl Norbornene | C(CCCCCCCCC)C12C=CC(CC1)C2.C1(=CC=CC=C1)CCC12C=CC(CC1)C2 | InChI=1S/C17H30.C15H18/c1-2-3-4-5-6-7-8-9-12-17-13-10-16(15-17)11-14-17;1-2-4-13(5-3-1)6-9-15-10-7-14(12-15)8-11-15/h10,13,16H,2-9,11-12,14-15H2,1H3;1-5,7,10,14H,6,8-9,11-12H2
